US06452030B1
After completion of the reaction, acrylic acid and di-n-butylamine were assayed by gas chromatography. As a result, formation of 152.5 g (yield 98%) of N,N-di-n-butyl-β-alanine was confirmed, with the rates of conversion of acrylic acid and di-n-butylamine being 98% and 98%, respectively.

reactant | acrylic acid | C(C=C)(=O)O | C3H4O2
reactant | di-n-butylamine | C(CCC)NCCCC | C8H19N
product | N,N-di-n-butyl-β-alanine | 152.5 g, yield 98% | C(CCC)N(CCC(=O)O)CCCC | C11H23NO2
